US06528543B1
A solution of 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid (366 mg, 1.27 mmol) in methylene chloride (10 mL) and 1 drop of N,N-dimethylformamide was cooled to 0° C. and then treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.76 mL, 1.53 mmol). The reaction was stirred for 30 min at 0° C., at which time, 1,1,1,3,3,3-hexamethyldisilazane (0.81 mL, 3.81 mmol) was added to the reaction mixture. The reaction was allowed to slowly warm to 25° C. and then stirred at 25° C. for 16 h. The reaction mixture was then treated with methanol (5 mL). The resulting reaction mixture was washed with a 5% aqueous sulfuric acid solution (2×10 mL). The combined aqueous layers were extracted with methylene chloride (3×10 mL). The combined organic layers were then washed with a saturated aqueous sodium chloride solution (1×10 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 70/30 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionamide (229 mg, 63%) as a white solid: mp 98.6-100.1° C.; EI-HRMS m/e calcd for C14H17Cl2NO (M+) 285.0687, found 285.0688.

reactant | 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid | 1.27 mmol, 366 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 3.81 mmol, 0.81 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 5 mL | CO | CH4O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 1.53 mmol, 0.76 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionamide | 229 mg, 63% | C1(CCCC1)CC(C(=O)N)C1=CC(=C(C=C1)Cl)Cl | C14H17Cl2NO
